Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
Cycle #3 high-dose methotrexate for primary bone lymphoma spread 
to CNS.
 
Major Surgical or Invasive Procedure:
Left foot skin biopsy, ___.
 
History of Present Illness:
Ms. ___ is an ___ woman with DLBCL with CNS involvement 
admitted electively for cycle #3 high-dose methotrexate.  She 
was first diagnosed with DLBCL lymphoma involving her leg and 
brain in ___.  She underwent stereotactic radiosurgery to the 
brain followed by R-CHOP x6 cycles.  Repeat imaging of the CNS 
showed recurrence of disease.  So she started cycle #1 high-dose 
methotrexate ___ complicated by pancytopenia, N/V, and 
fatigue.  She tolerated cycle #2 ___ without difficulty.
.
ROS: She denies fever, chills, sweats, wght loss, nausea, 
vomiting, headache, visual changes, dizziness, chest pain, 
shortness of breath, cough, abdominal pain, back pain, diarrhea, 
hematochezia, hematuria, other urinary symptoms, or rash.  Her 
left foot is numb and she notes occasional constipation.  All 
other ROS were negative.
 
Past Medical History:
- Diffuse large B cell lymphoma
- Glaucoma  
- DM2 seen by ___  
- Chronic kidney disease  
- Hyperlipidemia  
- Hypertension  
- Osteoarthritis  
- Iron def anemia  
- s/p bilateral TKR
Oncologic History:
___ Worsening edema in her legs, L>R, negative DVT eval.
- About 2 weeks prior to her admission, she went to her PCP
because of ___ new rash in the left leg.
- ___ Skin biopsy revealed pan-dermal and subcutaneous 
malignant infiltrate most consistent with DLBCL.
- She then began to have falls at home and was found down by her
___ on the day of admission (___). There was no documented
LOC, loss of sphincter control, or witnessed seizure activity.  
Her family also described periods of increased confusion.  In 
the ER, she underwent a trauma evaluation after her fall and she 
was found to have a 2 cm L frontal mass with surrounding 
vasogenic edema.  C-spine, CXR and hip films were unremarkable.
- ___ MRI head confirmed an enhancing mass lesion in the
subcortical white matter of the left frontal lobe, approximately
2 cm, associated with vasogenic edema and effacement of the 
sulci.
- ___ MRI spine showed multilevel degenerative changes
throughout the cervical, thoracic, and lumbar spine as well as a 
focal lesion within the right psoas at the level of L3/L4, 
possibly consistent with a hematoma, calcification, or a 
metastasis.
- ___ ECHO: LVEF >55%. Pulmonary artery systolic 
hypertension.
- ___ PET scan revealed a 2-cm intracranial lymphoma
metastasis in the left frontal lobe, moderate intramuscular
lymphoma disease in the left biceps and right psoas, and
extensive lymphoma in the left calf with mild regional spread to
the left thigh and left inguinal nodes.
- ___ Brain biopsy revealed DLBCL.
- ___ bone marrow biopsy was normal.
- ___ Cyberknife to CNS lesion (1500 cGy x1 fraction).
- ___ CHOP on ___ service (vincristine capped at 2).
- ___ Rituximab 375mg/m2.
- ___ Cycle #2 R-CHOP.
- ___ Cycle #3 R-CHOP.
- C4D1 RCHOP ___.
- fracture worsened on X-rays ___.
- ORIF L tibia and closed treatment of L fibular shaft fracture
performed on ___.
- ___ Cycle #5 R-CHOP.
- ___ Cycle #6 R-CHOP.
- ___ PET showed 9-mm FDG-avid lesion in the genu of the 
corpus callosum SUVmax 18.5 concerning for recurrence and 
FDG-avid focus in the right hilum SUVmax 5.3 without definite 
anatomic correlates.
- ___ Cycle #1 high-dose MTX.
- ___ Cycle #2 high-dose MTX.
- ___ Cycle #3 high-dose MTX.
 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___.
- No family history of premature CAD, SCD, stroke.
 
Physical Exam:
Admission Physical Examination:
VS: T 95.8F, BP 120/70, HR 80, RR 18, O2 Sat 100% RA, I/O , wght 
190 lbs, ht 59in.
GEN: A&O, NAD.
HEENT: Sclerae ___, EOM intact, o/p clear, MMM.
Neck: Supple, no JVD, no thyromegaly.
Lymph nodes: No cervical, supraclavicular, axillary, or inguinal 
LAD.
CV: S1S2, reg rate and rhythm, no MRG.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds.
EXTR: Trace pedal edema, left calf/ankle in bivalve boot.
DERM: No rash.
Neuro: Strength ___, decreased sensation to light touch intact 
on left foot, non-focal.
PSYCH: Appropriate and calm.
 
Pertinent Results:
ADMISSION LABS:
___ 08:45AM BLOOD WBC-4.6 RBC-3.28* Hgb-11.1* Hct-32.0* 
MCV-98 MCH-34.0* MCHC-34.8 RDW-17.0* Plt ___
___ 08:45AM BLOOD UreaN-19 Creat-1.0 Na-138 K-4.1 Cl-101 
HCO3-31 AnGap-10
___ 08:45AM BLOOD Albumin-4.2 Calcium-9.8 Mg-1.8 
UricAcd-4.7
___ 08:45AM BLOOD ALT-26 AST-23 LD(LDH)-323* AlkPhos-100 
TotBili-0.4
.
___ LLE Ultrasound: IMPRESSION: Severe cellulitis, without 
drainable fluid collections or deep involvement.
.
___ CXR: IMPRESSION: Satisfactory position of the PICC line.
.
___ CXR: The PICC line is again projected over the right 
internal jugular vein with the tip not included. There is no 
evidence of pneumothorax. Lungs remain clear. Mediastinal 
contours are unremarkable.
.
___ Left ankle X-RAY: There is some surrounding soft tissue 
swelling. IMPRESSION: Intact hardware with continued healing of 
the distal tibial fracture.
.
DISCHARGE LABS:
___ 05:34AM BLOOD WBC-1.9* RBC-2.64* Hgb-8.9* Hct-25.4* 
MCV-96 MCH-33.6* MCHC-35.0 RDW-15.6* Plt ___
___ 06:00AM BLOOD Neuts-77.9* Lymphs-16.4* Monos-3.3 
Eos-1.9 Baso-0.5
___ 05:34AM BLOOD ___ PTT-26.2 ___
___ 05:34AM BLOOD Glucose-91 UreaN-19 Creat-0.9 Na-137 
K-4.0 Cl-101 HCO3-29 AnGap-11
___ 05:03AM BLOOD ALT-42* AST-26 LD(LDH)-327* AlkPhos-81 
TotBili-0.3
___ 05:34AM BLOOD Phos-3.3 Mg-1.8
___ 05:41PM BLOOD mthotrx-3.9
___ 05:00AM BLOOD mthotrx-0.65
___ 06:16PM BLOOD mthotrx-0.16
___ 06:00AM BLOOD mthotrx-0.05
___ 05:00PM BLOOD mthotrx-0.03
___ 06:00AM BLOOD mthotrx-0.___ woman with DM, HTN, and CRF admitted for cycle #3 high-dose 
MTX.  Unable to obtain 24 hour cre cle ___ due to collection 
problem.  Reviewed with primary oncology team and proceeded with 
cycle #3 high-dose MTX as dosed in cycle #2 rather than further 
delay for another attempt at 24 urine collection.  Started MTX 
___ after PICC placement which she tolerated well except for 
mild fluid overload responsive to diuretics.  On ___ the 
patient developed a new left lower extremity cellulitis below 
the area of her pathologic fracture.  She was started on 
vancomycin with a good response and seen in consultation both 
the infectious disease service and the orthopedic service who 
found no evidence of deeper infection.  Her cellulitis responded 
well to vancomycin.  Antibiotics were changed to cefazolin IV on 
___ and subsequently to cephalexin PO upon discharge.  In 
addition she was seen by the Dermatology service and a biopsy of 
the violaceous nodules within the cellulitic area was taken.
.
# CNS lymphoma: Received cycle #3 high-dose MTX 3.5g/m2 ___ 
after alkalinized IVF ___ ___. Bicarbonate 1meq/kg IV prior 
to chemotherapy, 25meq IV with chemotherapy, 100meq/1L bicarb in 
IV ___ NS hydration and 1300mg PO. Leucovorin rescue 24 hours 
post-MTX infusion as IV. MTX levels followed at 24 hour 
intervals due to development of cellulitis and need for 
antibiotics. Alkalanized IVF, leucovorin and oral bircarbonate 
were continued past ___ MTX level because vancomycin changed to 
cephalosporin. Held TMP-SMX, aspirin, glipizide, PPI, 
folate/MVI, and ascorbic acid until clearance of MTX. These will 
be restarted at discharge. Required lasix diuresis and foley 
catheter for fluid overload (and limited mobility in pt 
excreting chemo in her urine.
.
# Diabetic cellulitis: Border outlining infection drawn.  
Improved on vancomycin, changed to IV cefazolin once MTX 
cleared.  ID consulted.  Orthopedics consulted.  Dermatology 
biopsied foot ___.  Change IV cefazolin to cephalexin at 
hospital discharge.
.
# Fluid overload: Furosemide diuresis ___.  IV fluids 
stopped.
.
# Dysuria: U/A and culture negative.  D/C'd Foley.
.
# Diabetes: Hyperglycemia with steroid premeds.  Restarted 
glipizide after MTX cleared.  Continued insulin glargine + 
sliding scale.
.
# Asymtomatic bacteruria: Urine cx positive for a resistant 
bacteria, sensitive to meropenem.  Repeat U/A and culture 
negative.
.
# DLBCL: Purple nodules within cellulitis worrisome for 
recurrence.  Dermatology biopsied left foot ___.  Restarted 
TMP-SMX prophylaxis since MTX cleared.  Continued acyclovir PPx.
.
# Tibial/fibular fracture: Pathologic fractures due to 
chemo-response of her lymphoma with distal fibular resorption.  
Orthopedic surgery recommended bivalve cast only in bed and left 
leg non-wght bearing.
.
# Depression: Psych consulted.  No need for antidepressants at 
this time.
.
# HTN: Not on BP meds.
.
# Constipation: Continued outpatient bowel regimen.
.
# Neutropenia and anemia: Chemo induced.  Stable H/H.
.
# Hearing loss: Uses hearing aid.
.
# FEN: Regular diabetic diet.  Metabolic alkalosis expected with 
bicarb administration.  Repleted hypophosphatemia.
.
# DVT prophylaxis: Fondaparinux.
.
# GI prophylaxis: PPI and bowel regimen.
.
# Lines: Peripheral IV.  PICC placement ___. 
.
# Precautions: Fall.
.
# CODE: DNR/DNI.
 
Medications on Admission:
ACYCLOVIR 400 mg Tablet - 1 Tablet(s) by mouth every eight (8) 
hours
ALLOPURINOL ___ mg Tablet - 1 Tablet(s) by mouth once a day
CLOTRIMAZOLE 10 mg Troche - dissolve in mouth four times per day
FOLIC ACID 1 mg Tablet - 1 Tablet(s) by mouth daily
FONDAPARINUX [ARIXTRA] 2.5 mg/0.5 mL Syringe - Inject 2.5mg SC 
daily DVT ppx
GLIPIZIDE 5 mg Tablet - 1 Tablet(s) by mouth daily
INSULIN GLARGINE [LANTUS] 100 unit/mL Solution - 12 units SC at 
bedtime
LACTULOSE 10 gram/15 mL Solution - 30 gm by mouth daily PRN 
constipation
LEVETIRACETAM 250 mg Tablet by mouth twice a day
OMEPRAZOLE 40 mg Capsule, Delayed Release(E.C.) - 1 Capsule(s) 
by mouth daily
ONDANSETRON HCL 8 mg Tablet by mouth Q8 hours PRN nausea
OXYCODONE 5 mg Tablet - 1 Tablet(s) by mouth every 4 hours PRN 
pain
POLYETHYLENE GLYCOL 17 gram/dose Powder PO DAILY PRN 
constipation
PROCHLORPERAZINE MALEATE 10 mg PO Q6 hours as needed for nausea
SULFAMETHOXAZOLE-TRIMETHOPRIM 400 mg-80 mg Tablet PO DAILY *** 
it
appears that patient has been taking 1 DS tablet daily, not 1 SS
tablet daily ***
ACETAMINOPHEN 650 mg PO QID PRN pain
ASCORBIC ACID ___ mg Tablet PO DAILY
ASPIRIN [ENTERIC COATED ASPIRIN] 81 mg Tablet, Delayed Release 
(E.C.) PO daily
CYANOCOBALAMIN (VITAMIN B-12) 1,000 mcg PO DAILY
DOCUSATE SODIUM 100 mg PO BID
INSULIN REGULAR HUMAN [HUMULIN R] 100 unit/mL Solution - Inject 
insulin as per sliding scale SC QIDACHS <150 = 0 units; 150-200 
= 2 units; 201-250 = 4
units; 251-300 = 6 units; 301-350 = 8 units, 351-400 units = 10
units, >400 = 12 units
MAGNESIUM HYDROXIDE [MILK OF MAGNESIA] 400mg/5mL - 30mL PO qHS 
PRN constipation
MULTIVITAMIN Tablet PO DAILY
SENNOSIDES [SENNA] 8.6 mg PO BID
 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. allopurinol ___ mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. fondaparinux 2.5 mg/0.5 mL Syringe Sig: One (1) Syringe 
Subcutaneous DAILY.
5. glipizide 5 mg Tablet Extended Rel 24 hr PO DAILY
6. insulin glargine 100 unit/mL Solution Sig: 12U Subcutaneous 
at bedtime.
7. Humalog 100 unit/mL Solution Units SC QID: Per sliding scale.
8. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
PRN constipation.
9. levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
10. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
11. ondansetron HCl 4 mg Tablet Sig: ___ Tablets PO q8hrs as 
needed for nausea.
12. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H as needed 
for Pain.
13. polyethylene glycol 3350 17 gram/dose Powder PO DAILY PRN 
Constipation.
14. prochlorperazine maleate 10 mg PO Q6H PRN Nausea.
15. sulfamethoxazole-trimethoprim 400-80 mg Tablet PO DAILY 
(Daily).
16. acetaminophen 325 mg Tablet Sig: ___ Tablets PO q6hrs PRN 
pain.
17. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY.
19. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY.
20. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID.
21. magnesium hydroxide 400mg/5mL Sig: Thirty (30) ML PO Q6H PRN 
Constipation.
22. senna 8.6 mg Tablet PO BID PRN Constipation.  
23. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
24. cephalexin 500 mg PO QID for 10 days: Last day ___.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cycle #3 high-dose methotrexate chemotherapy
Brain (CNS) lymphoma
Leg lymphoma
Diabetes
Cellulitis (skin infection)
Pathologic fracture of left leg
Depression
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital for cycle #3 high-dose 
methotrexate chemotherapy for brain (CNS) lymphoma.  You 
tolerated chemotherapy well, but you developed an infection of 
your left foot (cellulitis).  This was treated with antibiotics 
and you will need to complete a course after you leave the 
hospital.  To assist in management of this infection, you were 
also seen by the orthopedic surgeons and the infectious disease 
doctors because ___ have hardware in your left leg that could 
become infected from the skin infection.  You were also seen by 
the dermatology service to arrange for a biopsy of the purple 
areas on your foot once the infection has healed.
.
The following changes were made to your medications:
1. Cephalexin 4x a day, last day ___.
 
Followup Instructions:
___